US06391874B1
1-Methyl-5-(1,3-dioxolan-2-yl)-imidazole
1-Methyl-5-formyl imidazole (0.64 g) was treated with ethylene glycol (0.3 ml), p-toluenesulphonic acid monohydrate (0.0015 g) and powdered 4A molecular seives under N2 for 18 hours at reflux. Subsequent cooling and filtration was followed by washing of the organic phase with aqueous sodium carbonate solution (2N), drying and concentration to give the title compound; δH (CDCl3) 7.43 (1H,s), 7.12 (1H,s), 5.91 (1H,s), 4.10(4H,m), 3.70(3H,s).

reactant | 1-Methyl-5-formyl imidazole | 0.64 g | CN1C=NC=C1C=O | C5H6N2O
reactant | p-toluenesulphonic acid monohydrate | 0.0015 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethylene glycol | 0.3 ml | C(CO)O | C2H6O2
product | 1-Methyl-5-(1,3-dioxolan-2-yl)-imidazole | CN1C=NC=C1C1OCCO1 | C7H10N2O2
